US07947814B2
Synthesis of 2,2-dimethyl-5-(2-(2-(dimethylamino)ethoxy)ethyl-imino)-3-hexanone
In a 100 mL round bottom flask equipped with a magnetic stirrer, 8 g 2,2-dimethylhexane-3,5-dione was combined with 1.1 equivalents of 2-(2-(dimethylamino)ethoxy)ethylamine, anhydrous sodium sulfate and anhydrous diethyl ether and stirred over three days under nitrogen. The ether was removed on a rotary evaporator and the residue was vacuum distilled through a Vigreux column to yield 9.7 g of product.

reactant | 2,2-dimethylhexane-3,5-dione | 8 g | CC(C)(C(CC(C)=O)=O)C | C8H14O2
reactant | 2-(2-(dimethylamino)ethoxy)ethylamine | 1.1 equivalents | CN(CCOCCN)C | C6H16N2O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,2-dimethyl-5-(2-(2-(dimethylamino)ethoxy)ethyl-imino)-3-hexanone | 9.7 g | CC(C)(C(CC(C)=NCCOCCN(C)C)=O)C | C14H28N2O2
